### PR TITLE
feat(Mathlib/Tactic/finCases): Port `fin_cases`

### PR DESCRIPTION
**Pull request by winston-h-zhang**
This PR implements `fin_cases` from mathlib3. It largely follows the original idea behind Scott's code. There are a few notable details for this PR
- To have `fin_cases`s full functionality, we must port `Fintype/Finset/Multiset`. I've tried my best to only use the minimal number of dependencies, but right now it feels very messy. Is there a standard way of organizing this?
- `cases_core` doesn't exist and I don't know how to recreate the API. There's an extremely hacky section that needs to be fixed.

### CODE REVIEW

File: Mathlib/Tactic/finCases.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+  withMainContext do
+    let lDecl ←
+      match (← getLCtx).find? hyp with
+      | none => throwError m!"hypothesis not found"
+      | some lDecl => pure lDecl
+    match ← getMemType lDecl.type with
+    | some _ =>
+      -- Deal with `x ∈ A` hypotheses:
+      -- everything inside this block is a hack lmao
+      liftMetaTacticAux fun mvarId => do
```
Comment (winston-h-zhang) [inline Mathlib/Tactic/finCases.lean:35]: This feels like a gigantic hack. Is there a way recursively apply `cases` and capture the subgoals in a list nicely?

File: Mathlib/Tactic/finCases.lean [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+        let rec loop (goal : MVarId) (hyp : FVarId) (cont : Array MVarId) := do
+          try
+            let #[g₁, g₂] ← cases goal hyp |
+              throwError "'cases' tactic failed, unexpected number of subgoals"
+            loop g₂.mvarId g₂.fields[3]!.fvarId! (cont.push g₁.mvarId)
+          catch _ =>
+            return cont
+        return ((), Array.toList <|← loop mvarId hyp #[])
```
Comment (winston-h-zhang) [inline Mathlib/Tactic/finCases.lean:43]: This feels like a gigantic hack. Is there a way recursively apply `cases` and capture the subgoals in a list nicely?

File: Mathlib/Tactic/finCases.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+      let v ← mkAppOptM ``Fintype.complete #[lDecl.type, inst, lDecl.toExpr]
+
+      let hyp ← liftMetaTacticAux fun mvarId => do
+        let (fvar, mvarId) ← intro1P (← assert mvarId `this t v)
+        pure (fvar, [mvarId])
+
+      withMainContext do
+        finCasesAt hyp
+
+syntax (name := finCases) "fin_cases " ("*" <|> (term,+)) (" with " term)? : tactic
```
Comment (winston-h-zhang) [inline Mathlib/Tactic/finCases.lean:58]: I'm not sure how to interpret this syntax. It's missing the optional `using` that mathlib3 had. It's hard to understand how `fin_cases * with xs` should behave; presumably it would fail if `*` matches on any goals not defeq to `xs`?

File: Mathlib/Tactic/finCases.lean [hunk 4]
```diff
@@ -0,0 +1,71 @@
...
+      let elems ← mkAppOptM ``Fintype.elems #[lDecl.type, inst]
+      let t ← mkAppM ``Membership.mem #[lDecl.toExpr, elems]
+      let v ← mkAppOptM ``Fintype.complete #[lDecl.type, inst, lDecl.toExpr]
+
+      let hyp ← liftMetaTacticAux fun mvarId => do
+        let (fvar, mvarId) ← intro1P (← assert mvarId `this t v)
+        pure (fvar, [mvarId])
+
+      withMainContext do
+        finCasesAt hyp
```
Comment (winston-h-zhang) [inline Mathlib/Tactic/finCases.lean:56]: This seems like it works, but are there any footguns I should be careful about?

**Comment by digama0** [comment]
Please separate out the porting parts of this PR into its own PR.

File: Mathlib/Data/List/Basic.lean [hunk 5]
```diff
@@ -882,7 +883,7 @@ theorem erasep_append_right :
 | (x::xs), l₂, h => by
   simp [(forall_mem_cons.1 h).1, erasep_append_right _ (forall_mem_cons.1 h).2]
 
--- theorem erasep_sublist (l : List α) : l.erasep p <+ l :=
+-- theorem erasep_subList (l : List α) : l.erasep p <+ l :=
```
Comment (digama0) [inline Mathlib/Data/List/Basic.lean:886]: s/subList/sublist/, this is an actual word

File: Mathlib/Data/List/Basic.lean [hunk 6]
```diff
@@ -1168,7 +1169,7 @@ end union
   cases l₁ <;> simp [List.inter, mem_filter]
 
 /--
-List.prod satisfies a specification of cartesian product on lists.
+List.prod satisfies a specification of cartesian product on Lists.
```
Comment (digama0) [inline Mathlib/Data/List/Basic.lean:1172]:
```suggestion
List.prod satisfies a specification of cartesian product on lists.
```

**Comment by digama0** [comment]
For porting, you should be using https://github.com/leanprover-community/mathlib3port, not https://github.com/leanprover-community/mathlib directly. This will save you a lot of trouble fixing lean 3 syntax stuff, and will save us trouble when we later have to diff these files against the automatically ported files when new theorems are added to mathlib and/or we get around to porting these files for real.

File: Mathlib/Tactic/finCases.lean (hunk 3 above)
Comment (digama0) [reply Mathlib/Tactic/finCases.lean:58]: The `using` clause was added in leanprover-community/mathlib#11085 and someone forgot to add the modifies-tactic-syntax tag, meaning that it got skipped during the last mathlib syntax upgrade. The fix is to add a `(" using " ident)?` clause at the end of the syntax.

Comment (digama0) [reply Mathlib/Tactic/finCases.lean:58]: From https://github.com/leanprover-community/mathlib/blob/44c1fdca68f56ad3ec7ef5ca13e75ace130f926d/src/tactic/fin_cases.lean#L159, the behavior of `fin_cases * with xs` is to throw an error `Specify a single hypothesis when using a `with` argument.`. I recommend reading the tactic implementation to find out what happens in edge cases.

File: Mathlib/Data/List/Chain.lean [hunk 7]
```diff
@@ -0,0 +1,45 @@
...
+
+protected lemma Chain.Pairwise [Trans R R R] :
+  ∀ {a : α} {l : List α}, Chain R a l → Pairwise R (a :: l)
+| a, [], Chain.nil => Pairwise_singleton _ _
+| a, _, (@Chain.cons _ _ _ b l h hb) => by
+    refine Pairwise.cons ?_ ?_
+    · sorry
+    · sorry
+    -- hb.Pairwise.cons begin
+    -- simp only [mem_cons_iff, forall_eq_or_imp, h, true_and]
```
Comment (dwrensha) [inline Mathlib/Data/List/Chain.lean:40]: I opened https://github.com/leanprover-community/mathlib4/pull/350 to add these missing lemmas.

**Comment by semorrison** [comment]
@winston-h-zhang, would it be okay if I started some work on this port? My plan would be
1. Port a minimal version of `fin_cases` that only deals with `List A` hypotheses. This will get most of the logic of the tactic sorted out, but not need any material on `Finset` and `Multiset` ported.
2. In parallel, port as little as possible of `Finset` and `Multiset` from `mathlib3port`.
3. Once those are both done, make `fin_cases` do everything.

I would probably just start a new branch, but make use of some of your code from here (appropriately credited, of course :-).

File: Mathlib/Tactic/finCases.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/Tactic/finCases.lean:65]: Done now.

**Comment by semorrison** [comment]
Made redundant by #437.
